US05424295
6-n-Propoxypurine (5.6 mmoles, 1 g, Sigma Chemicals, St. Louis Mo.) was combined with 545 ml of a uracil arabinoside solution (10.1 mmoles) in 10 mM potassium phosphate and 7% n-propanol (v/v). Purified uridine phosphorylase (680 I.U.) and purine nucleoside phosphorylase (12000 I.U.) were added and the reaction stirred at 35° C. The reaction was filtered after 58 days and the filtrate stored at 3° C. for 20 hours. The resulting precipitate was collected by centrifugation, dissolved in 30% n-propanol/water (v/v), and chromatographed on a column of Dowex-1-formate resin (2.5×5 cm) after adjusting the pH to 10.5 with concentrated ammonium hydroxide. The column was eluted with 30% n-propanol/water (v/v) and fractions containing product were combined and solvent removed in vacuo. The residue was dissolved in n-propanol and chromatographed on a column containing BioRad P-2 (5×90 cm). The column was eluted with 30% n-propanol/water (v/v). Product-containing fractions were combined and after removing the solvent under vacuum the residue was dissolved in water and chromatographed on a column containing BioRad P-2 (5×90 cm). The column was eluted with water. Product containing fractions were combined and after lyophilization, yielded 0.758 g of 9-β-D -arabinofuranosyl-6-n-propoxy-9H-purine that analyzed as a monohydrate. NMR and mass spectrometry were consistent with the structure. Anal. Calcd. for C13H18N4O5.H2O: Calcd: C, 47.56; H, 6.14; N, 17.06. Found: C, 47.63; H, 6.13; N, 17.11.

reactant | 6-n-Propoxypurine | 5.6 mmoles, 1 g | C(CC)OC1=C2NC=NC2=NC=N1 | C8H10N4O
reactant | uracil arabinoside | 10.1 mmoles, 545 ml | C1=CN(C(=O)NC1=O)[C@H]2[C@H]([C@@H]([C@H](O2)CO)O)O | C9H12N2O6
reactant | uridine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
solvent | potassium phosphate | 10 mM | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | n-propanol | C(CC)O | C3H8O
product | 9-β-D -arabinofuranosyl-6-n-propoxy-9H-purine | 0.758 g | [C@@H]1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C2=NC=NC(=C2N=C1)OCCC | C13H18N4O5
